US04255182
Preparation of 2-bromomethyl-4,5-dimethyl-1,3-dioxolane
2-Bromo-1,1-dimethoxyethane (188 grams) 2,3-butanediol (100 grams) and toluene sulfonic acid (0.1 grams) were charged into a glass reaction vessel fitted with a mechanical stirrer, thermometer, and reflux condenser. The reaction mixture was heated to reflux for a period of about 2 hours. It was then cooled to room temperature, neutralized with potassium carbonate, and filtered. The filtrate was distilled, the desired product 2-bromomethyl-4,5-dimethyl-1,3-dioxolane being obtained as a fraction boiling at 82° C.-85° C. at a pressure of about 12 mm Hg.

reactant | 2-Bromo-1,1-dimethoxyethane | 188 grams | BrCC(OC)OC | C4H9BrO2
reactant | toluene sulfonic acid | 0.1 grams | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
product | 2-bromomethyl-4,5-dimethyl-1,3-dioxolane | BrCC1OC(C(O1)C)C | C6H11BrO2
